US04971971
A mixture of 4.7 g of 2-amino-5-heptylthio-1,3,4-thiadiazole, 3.3 g of propyl 3-hydroxy-2-methoxy-2-propenoate and 12 g of polyphosphoric acid was heated to 130°~135° C. and stirred for 30 minutes. After cooling, water and chloroform were added to the mixture and extraction was carried out. The organic layer was washed with a sodium hydrogen carbonate aqueous solution and water respectively, and dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was separated by silica gel column chromatography using an ethyl acetate/toluene mixture as an eluent. Thus 4.0 g of 2-heptylthio-6-methoxy-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was obtained. m.p. 68°~71° C. Yield 64%.

reactant | 2-amino-5-heptylthio-1,3,4-thiadiazole | 4.7 g | NC=1SC(=NN1)SCCCCCCC | C9H17N3S2
reactant | propyl 3-hydroxy-2-methoxy-2-propenoate | 3.3 g | OC=C(C(=O)OCCC)OC | C7H12O4
reactant | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-heptylthio-6-methoxy-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 4.0 g, Yield 64% | C(CCCCCC)SC1=NN2C(=NC=C(C2=O)OC)S1 | C13H19N3O2S2
